2161-10-19 23:51:00 Physician Attending Progress Note
Chief Complaint: melena, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89M - second episode of melena today over past week. Also fatigue, no
   dyspnea or CP, no fever, chills. Hct measured at 19. Trasnferred to ER
   - vitals stable. Hct confirmed at 19, coags normal. PIV's placed and
   PPI started. Currently receiving second 2nd unit of PRBC's.
   Currently complains of tiredness.
                                  History obtained from housestaff
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HTN
   MI
   Parkinson's
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: No(t) Dyspnea
   Gastrointestinal: melena
   Flowsheet Data as of  [**2161-10-19**] 11:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 64 (64 - 65) bpm
   BP: 162/60(85) {162/55(81) - 162/60(85)} mmHg
   RR: 25 (21 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  474 mL
   PO:
                  TF:
   IVF:
   Blood products:
   124 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    474 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   1.6
   44
   19
        [image002.jpg]
   Other labs: PT / PTT / INR:/31/1.1
   ECG: LBBB
   Assessment and Plan
   GI Bleed / blood loss anemia - IV access adequate, follow Hct, continue
   PPI, already seen by GI. Hold ASA and anti-hypertensives, NPO for
   possible EGD
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2161-10-20 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 transferred to [**Hospital Unit Name 1**] for HCT of 19 with active upper GI bleed
 transfused 2 units PRBCs over night with HCT improvement from 19
23.4, receiving 1 unit this AM
 Received 1 L NS bolus
 Kept NPO
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-20**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 61 (59 - 66) bpm
   BP: 115/41(59) {113/41(59) - 162/60(85)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: LBBB (Left Bundle Branch Block)
           Total In:
                                                                    531 mL
                                                                    731 mL
   PO:
           TF:
   IVF:
   62 mL
   Blood products:
                                                                    181 mL
                                                                    169 mL
   Total out:
                                                                    150 mL
                                                                    960 mL
   Urine:
                                                                    150 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male, NAD.
   HEENT: Normocephalic, atraumatic. Conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 systolic
   murmurs at the apex, rubs or [**Last Name (un) 1011**]. JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Pale palmar surfaces and distal extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   297 K/uL
   8.0 g/dL
   88 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   23.4 %
   15.4 K/uL
        [image002.jpg]
                             [**2161-10-19**]  11:31 PM
                            [**2161-10-20**]  03:17 AM
   WBC
   15.4
   15.4
   Hct
   22.8
   23.4
   Plt
   325
   297
   Cr
   1.4
   TropT
   0.03
   Glucose
   88
   Other labs: PT / PTT / INR:14.0/31.5/1.2, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:56.1 %, Lymph:34.8 %, Mono:6.0
   %, Eos:2.8 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   89 year-old gentleman with CAD, HTN, Parkinson's who presents w/ GI
   bleed, likely of upper GI source given melena and BUN/Cr > 30.  HCT was
   19 on admission
 patient currently stable
   .
   1. GI bleed- source likely upper given presentation and history of PUD,
   characteristic of dark, tarry stool and BUN/Cr > 30. Etiology of UGIB
   could include NSAID-induced gastritis (Pt is on ASA for CAD),
   slow-bleeding ulcers, arteriovenous malformations, varices, etc.
   -- Active T&S
   -- Hold all home antihypertensives
   -- Transfuse PRBCs for HCT <25
 given 2 units overnight, getting a
   third this morning
   -- Check q8h HCT
   -- Consult GI this AM
 Plan for EGD and C-scope tomorrow morning
   -- start pantoprazole IV BID
   -- hold ASA
   -- Start go-lytely at 1 pm
   -- Check chest X-Ray in setting of leukocytosis and basilar crackles
   .
   2. Acute on chronic renal insufficiency
 Unknown baseline.  Etiologies
   include pre-renal and chronic CKI due to HTN.  Likely pre-renal due to
   decrease in creatinine this AM.
   - continue to trend creatinine after blood products
   3. Parkinson's disease- continue outpatient regimen
   - Sinemet 50/200
   .
   4. CHF/CAD s/p MI - According to the patient, past MI was in the
   setting of taking [**Last Name (un) 11385**].
   - Hold Aspirin due to GI bleed
   5. BPH - Continue outpatient regimen
   - Continue Tolterodine 2mg QHS
   6. HTN - currently hypertensive at 162/60
   - Hold home regimen due to GI bleed, and potential to decompensate
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2161-10-19**] 10:00 PM
   Prophylaxis:
   DVT: none
   Stress ulcer: PPI ([**Hospital1 7**])
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: DNR/DNI from nursing home, Patient stated intubation ok
   needs clarification with patient and family today
   Disposition: Possible call out pending stable crit
   10:28
   ------ Protected Section ------
   Agree with above excellent MS4 note. Mr. [**Known lastname 11390**] continues to be
   hemodynamically stable although he has had 2 episodes of melena since
   admission. HCT has not yet bumped appropriately but transfusions still
   on going. Plan to check serial HCTs today and transfuse to goal >25.
   Continue IV PPI [**Hospital1 **] and holding ASA. Access is adequate with 2 18 gauge
   PIVs. Endoscopy plan per GI, if upper/lower tomorrow will give clears
   today, NPO p MN. Possibly callout this PM if HCT bumps appropriately
   and no signs of HD instability. Rest of plan per MS note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 208**], MD
   on:[**2161-10-20**] 11:36 ------

2161-10-20 09:27:00 Physician Attending Progress Note
Chief Complaint: GI bleed, melena
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Elderly gentleman presenting from HRC with melena and hct 19
   24 Hour Events:
   ASA held
   NPO overnight
   Transfused 2 u pRBCs overnight, receiving 3rd unit this morning
   Received 1 L NS
   Two episodes of melena/maroon stools overnight
                                    History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-10-20**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 61 (59 - 66) bpm
   BP: 115/41(59) {113/41(59) - 162/60(85)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia), LBBB (Left Bundle Branch Block)
           Total In:
                                                                    531 mL
                                                                    750 mL
   PO:
           TF:
   IVF:
   82 mL
   Blood products:
                                                                    181 mL
                                                                    169 mL
   Total out:
                                                                    150 mL
                                                                    960 mL
   Urine:
                                                                    150 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, mild resting
   tremor; masked faces
   Labs / Radiology
   8.0 g/dL
   297 K/uL
   88 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.2 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   23.4 %
   15.4 K/uL
        [image002.jpg]
                             [**2161-10-19**]  11:31 PM
                            [**2161-10-20**]  03:17 AM
   WBC
   15.4
   15.4
   Hct
   22.8
   23.4
   Plt
   325
   297
   Cr
   1.4
   TropT
   0.03
   Glucose
   88
   Other labs: PT / PTT / INR:14.0/31.5/1.2, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:56.1 %, Lymph:34.8 %, Mono:6.0
   %, Eos:2.8 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Continued to pass melena/maroon stools overnight.  Remains
   hemodynamically stable. Continue PPI, active type and screen, transfuse
   to Hct ~25.  Plan for EGD/colonoscopy tomorrow, needs golytely prep.
   Keep NPO except for clears.  IV maintenance fluids.   Given very low
   hct and inappropriate bump to first two units will continue to monitor
   in ICU.
 ACUTE ON CHRONIC RENAL FAILURE:  Secondary to UGIB and relative
   intravascular depletion.  Improved Cr to 1.4 with blood products and IV
   NS overnight.  Good urine output.
 LEUKOCYTOSIS:  Elevated WBC without left shift, doubt infection as he
   doesn't appear toxic.  Has chronically elevated WBC - need to follow up
   with PCP. [**Name10 (NameIs) **] crackles at right base, clear partially with deep
   breathing, may be atelectasis albeit will check CXR given transfusions
   - ?CHF vs. inflitrate in setting of leukocytosis.  Check UA.
 HYPERTENSION:  Holding antihypertensives in setting of GIB.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-10-19**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2161-10-21 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Only tolerated [**12-13**] of GoLytely
   Frequent stool
 melanotic and at times maroon
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-10-21**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-21**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 59 (54 - 68) bpm
   BP: 149/62(83) {126/41(64) - 177/105(111)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: LBBB (Left Bundle Branch Block)
             Total In:
                                                                  1,926 mL
                                                                  1,386 mL
   PO:
                                                                    720 mL
                                                                  1,300 mL
   TF:
   IVF:
                                                                    241 mL
                                                                     86 mL
   Blood products:
                                                                    465 mL
   Total out:
                                                                  3,120 mL
                                                                    800 mL
   Urine:
                                                                  2,920 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,194 mL
                                                                    586 mL
   Respiratory support
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male, NAD.
   HEENT: Normocephalic, atraumatic. Conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 systolic
   murmurs at the apex, rubs or [**Last Name (un) 1011**]. JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Pale palmar surfaces and distal extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   310 K/uL
   8.6 g/dL
   79 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   41 mg/dL
   106 mEq/L
   138 mEq/L
   26.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2161-10-19**]  11:31 PM
                            [**2161-10-20**]  03:17 AM
                            [**2161-10-20**]  02:02 PM
                            [**2161-10-20**]  09:45 PM
                            [**2161-10-21**]  03:54 AM
   WBC
   15.4
   15.4
   16.0
   Hct
   22.8
   23.4
   27.4
   28.5
   26.4
   Plt
   [**Telephone/Fax (3) 11409**]
   Cr
   1.4
   1.4
   TropT
   0.03
   Glucose
   88
   79
   Other labs: PT / PTT / INR:13.3/29.7/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:56.1 %, Lymph:34.8 %, Mono:6.0
   %, Eos:2.8 %, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   89 year-old gentleman with CAD, HTN, Parkinson's who presents w/ GI
   bleed, likely of upper GI source given melena and BUN/Cr > 30.  HCT was
   19 on admission
 patient currently stable
   .
   1. GI bleed- source likely upper given presentation and history of PUD,
   characteristic of dark, tarry stool and BUN/Cr > 30. Etiology of UGIB
   could include NSAID-induced gastritis (Pt is on ASA for CAD),
   slow-bleeding ulcers, arteriovenous malformations, varices, etc.
   -- Active T&S
   -- Transfuse PRBCs for HCT <25
 given 3 units total
   -- Check q8h HCT
   -- Plan for EGD and C-scope today pending GI recs
   -- Continue pantoprazole IV BID
   -- hold ASA
   -- Mag Citrate this AM for bowel prep
   .
   2. Acute on chronic renal insufficiency
 Unknown baseline.  Etiologies
   include pre-renal and chronic CKI due to HTN.  Likely pre-renal due to
   decrease in creatinine this AM.
   - continue to trend creatinine after blood products
   - H/H increased, BUN/Cr stable
 continue to monitor, likely back to
   baseline
   3. Parkinson's disease- continue outpatient regimen
   - Sinemet 50/200
   - Mirapex
 0.125mg PO TID
   .
   4. CHF/CAD s/p MI - According to the patient, past MI was in the
   setting of taking [**Last Name (un) 11385**].
   - Hold Aspirin due to GI bleed
   5. BPH and urinary retention - Continue outpatient regimen
   - Continue Tolterodine 2mg QHS
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2161-10-19**] 10:00 PM
   Prophylaxis:
   DVT: none
   Stress ulcer: PPI ([**Hospital1 7**])
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: DNR/DNI from nursing home, Patient stated intubation ok
   needs clarification with patient and family today
   Disposition: Possible call out pending stable crit and GI plan
   Agree with excellent MS IV note above.

2161-10-21 10:40:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Only took ~ one third of the golytely, got magnesium citrate this am ;
   patient refused to drink more golytely
   Still with melena and maroon stools yesterday and overnight; brown
   loose stool this morning
   Last transfused yesterday morning
                       History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-10-21**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-10-21**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 60 (54 - 68) bpm
   BP: 155/56(82) {126/41(64) - 177/105(111)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: LBBB (Left Bundle Branch Block)
             Total In:
                                                                  1,926 mL
                                                                  1,695 mL
   PO:
                                                                    720 mL
                                                                  1,580 mL
   TF:
   IVF:
                                                                    241 mL
                                                                    115 mL
   Blood products:
                                                                    465 mL
   Total out:
                                                                  3,120 mL
                                                                  1,030 mL
   Urine:
                                                                  2,920 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,194 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : minimal at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   310 K/uL
   79 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   41 mg/dL
   106 mEq/L
   138 mEq/L
   26.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2161-10-19**]  11:31 PM
                            [**2161-10-20**]  03:17 AM
                            [**2161-10-20**]  02:02 PM
                            [**2161-10-20**]  09:45 PM
                            [**2161-10-21**]  03:54 AM
   WBC
   15.4
   15.4
   16.0
   Hct
   22.8
   23.4
   27.4
   28.5
   26.4
   Plt
   [**Telephone/Fax (3) 11409**]
   Cr
   1.4
   1.4
   TropT
   0.03
   Glucose
   88
   79
   Other labs: PT / PTT / INR:13.3/29.7/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:56.1 %, Lymph:34.8 %, Mono:6.0
   %, Eos:2.8 %, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Patient unable to take all the golytely in, still not having clear
   stools so prep inadequate for scope today.  Will continue bowel prep in
   anticipation of endocsocpy and colonoscopy tomorrow.  Hct slightly
   decreased.  Repeat labs this afternoon.  Diet will be clears today.
   Stable for transfer to the medical floor.
 ACUTE RENAL FAILURE: SEcondary to GIB and prerenal state.  Cr has
   come down to 1.4 and stablized.  Monitor I/Os.
   Plan otherwise as per medical ICU housestaff note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-10-19**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient with recurrent melena, hct drop by ~10 points. Plan for
   transfusion pRBCs, GI service notified of change and they plan to
   proceed with scoping this evening.  Patient has been hemodynamically
   stable.
   Patient remains critically ill
   Time spent:  20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2161-10-21**] 17:41 ------

2161-10-22 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HCT drop to 17 from 26
   Transfused 4 units
 HCT 33.8
   EGD
 negative
   Red Cell scan
 possible source in the sigmoid
   Surgery made aware
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-10-21**] 09:00 PM
   Midazolam (Versed) - [**2161-10-21**] 09:00 PM
   Pantoprazole (Protonix) - [**2161-10-22**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-22**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 63 (57 - 77) bpm
   BP: 136/57(77) {101/44(44) - 169/78(100)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: LBBB (Left Bundle Branch Block)
           Total In:
                                                                  3,395 mL
                                                                    501 mL
   PO:
                                                                  2,180 mL
           TF:
   IVF:
                                                                    360 mL
                                                                     89 mL
   Blood products:
                                                                    855 mL
                                                                    413 mL
   Total out:
                                                                  2,040 mL
                                                                    810 mL
   Urine:
                                                                  2,040 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,355 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male, NAD.
   HEENT: Normocephalic, atraumatic. Conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 systolic
   murmurs at the apex, rubs or [**Last Name (un) 1011**]. JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Pale palmar surfaces and distal extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   274 K/uL
   12.1 g/dL
   73 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   38 mg/dL
   103 mEq/L
   136 mEq/L
   33.8 %
   17.7 K/uL
        [image002.jpg]
                             [**2161-10-19**]  11:31 PM
                            [**2161-10-20**]  03:17 AM
                            [**2161-10-20**]  02:02 PM
                            [**2161-10-20**]  09:45 PM
                            [**2161-10-21**]  03:54 AM
                            [**2161-10-21**]  02:32 PM
                            [**2161-10-21**]  05:11 PM
                            [**2161-10-21**]  10:19 PM
                            [**2161-10-22**]  02:09 AM
                            [**2161-10-22**]  04:03 AM
   WBC
   15.4
   15.4
   16.0
   20.6
   17.7
   Hct
   22.8
   23.4
   27.4
   28.5
   26.4
   17.6
   20.6
   29.8
   34.7
   33.8
   Plt
   [**Telephone/Fax (3) 11442**]91
   274
   Cr
   1.4
   1.4
   1.3
   TropT
   0.03
   Glucose
   88
   79
   73
   Other labs: PT / PTT / INR:13.2/30.2/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:74.5 %, Lymph:17.8 %, Mono:5.7
   %, Eos:1.8 %, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   89 year-old gentleman with CAD, HTN, Parkinson's who presents w/ GI
   bleed, likely of lower GI source given results on RBC tagged scan
   patient currently guardedly stable
   .
   1. GI bleed- lower source given negative EGD and scan possible
   etiologies include, arteriovenous malformations, diverticulosis, colon
   CA, hemerrhoids, etc.
   -- Active T&S
   -- Transfuse PRBCs for HCT <25
 given 4 units yesterday, 7 total
   -- Check q4h HCT
   -- Plan for C-scope today pending GI recs
   -- Continue pantoprazole IV BID
   -- hold ASA
   -- F/U GI recs
   -- F/U surgery recs
   -- Notify surgery if he becomes unstable
   -- Central line for more access?
   2. Acute on chronic renal insufficiency
 Unknown baseline.  Etiologies
   include pre-renal and chronic CKI due to HTN.  Likely pre-renal due to
   decrease in creatinine this AM.
   - continue to trend creatinine after blood products
   - H/H increased, BUN/Cr stable
 continue to monitor, likely back to
   baseline or close to baseline
   3. Leukocytosis
 unknown etiology
 baseline supposedly high
   -- Continue to monitor and trend
   -- afebrile, monitor for signs and symptoms of infection
   3. Parkinson's disease- continue outpatient regimen
   - Sinemet 50/200
   - Mirapex
 0.125mg PO TID
   .
   4. CHF/CAD s/p MI - According to the patient, past MI was in the
   setting of taking [**Last Name (un) 11385**].
   - Hold Aspirin due to GI bleed
   5. BPH and urinary retention - Continue outpatient regimen
   - Continue Tolterodine 2mg QHS
   ICU Care
   Nutrition: NPO
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2161-10-21**] 09:46 PM
   18 Gauge - [**2161-10-21**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: Full Code
   Disposition: ICU
   Agree w/ excellent MS IV note above. Pt received enema x2 this AM, is
   s/p flex sig which could not reveal bleeding source d/t copious amts of
   melena in bowel- plan is for [**Last Name (un) **] tmrw and for pt to start GoLytely
   prep early in the day. Surgery to be contact[**Name (NI) **] if pt becomes
   hemodynamically unstable, trending q4h HCTs. Pt receiving 1u FFP & 1 u
   plts.

2161-10-22 12:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2161-10-21**] 09:00 PM
 NUCLEAR MEDICINE - At [**2161-10-21**] 11:30 PM
   Transfused 4 u pRBCs
   EGD negative
   RBC scan showed possible source in sigmoid colon, IR didn't feel it was
   brisk enough for them to intervene
   Continuing to pass red blood/maroon stools
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-10-21**] 09:00 PM
   Midazolam (Versed) - [**2161-10-21**] 09:00 PM
   Pantoprazole (Protonix) - [**2161-10-22**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-10-22**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 62 (58 - 77) bpm
   BP: 134/51(71) {101/44(44) - 169/78(100)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: LBBB (Left Bundle Branch Block)
           Total In:
                                                                  3,395 mL
                                                                    545 mL
   PO:
                                                                  2,180 mL
           TF:
   IVF:
                                                                    360 mL
                                                                    132 mL
   Blood products:
                                                                    855 mL
                                                                    413 mL
   Total out:
                                                                  2,040 mL
                                                                    980 mL
   Urine:
                                                                  2,040 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,355 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   rare crackles at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   274 K/uL
   73 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.3 mEq/L
   38 mg/dL
   103 mEq/L
   136 mEq/L
   30.8 %
   17.7 K/uL
        [image002.jpg]
                            [**2161-10-20**]  03:17 AM
                            [**2161-10-20**]  02:02 PM
                            [**2161-10-20**]  09:45 PM
                            [**2161-10-21**]  03:54 AM
                            [**2161-10-21**]  02:32 PM
                            [**2161-10-21**]  05:11 PM
                            [**2161-10-21**]  10:19 PM
                            [**2161-10-22**]  02:09 AM
                            [**2161-10-22**]  04:03 AM
                            [**2161-10-22**]  08:01 AM
   WBC
   15.4
   16.0
   20.6
   17.7
   Hct
   23.4
   27.4
   28.5
   26.4
   17.6
   20.6
   29.8
   34.7
   33.8
   30.8
   Plt
   297
   310
   291
   274
   Cr
   1.4
   1.4
   1.3
   TropT
   0.03
   Glucose
   88
   79
   73
   Other labs: PT / PTT / INR:13.2/30.2/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:74.5 %, Lymph:17.8 %, Mono:5.7
   %, Eos:1.8 %, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Has now received 7 u pRBCs, continues to have evidence of active
   bleeding.  Repeat hct pending, active type and screen.  Massive
   hemorrhage transfusion protocol.   PPI.  Three peripheral IVs in
   place.
 LEUKOCYTOSIS:  Down somewhat today.   Likely secondary to stress in
   face of acute GIB.  Check differential.  Consider surveillance
   cultures.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-21**] 09:46 PM
   18 Gauge - [**2161-10-21**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-10-23 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Go-lytely overnight for c-scope today
   HCT peaked at 34 last night, now 30.8
   1 unit platelets and 1 unit FFP
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-10-22**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-23**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 65 (57 - 80) bpm
   BP: 136/50(72) {128/48(69) - 175/75(131)} mmHg
   RR: 20 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,433 mL
                                                                     73 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    260 mL
                                                                     73 mL
   Blood products:
                                                                  1,173 mL
   Total out:
                                                                  2,600 mL
                                                                    815 mL
   Urine:
                                                                  2,600 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -167 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male, NAD.
   HEENT: Normocephalic, atraumatic. Conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 systolic
   murmurs at the apex, rubs or [**Last Name (un) 1011**]. JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Pale palmar surfaces and distal extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   341 K/uL
   10.4 g/dL
   59 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.8 mEq/L
   31 mg/dL
   103 mEq/L
   141 mEq/L
   30.8 %
   14.2 K/uL
        [image002.jpg]
                            [**2161-10-21**]  02:32 PM
                            [**2161-10-21**]  05:11 PM
                            [**2161-10-21**]  10:19 PM
                            [**2161-10-22**]  02:09 AM
                            [**2161-10-22**]  04:03 AM
                            [**2161-10-22**]  08:01 AM
                            [**2161-10-22**]  11:58 AM
                            [**2161-10-22**]  03:59 PM
                            [**2161-10-22**]  07:40 PM
                            [**2161-10-23**]  04:04 AM
   WBC
   20.6
   17.7
   14.2
   Hct
   17.6
   20.6
   29.8
   34.7
   33.8
   30.8
   29.9
   31.0
   34.2
   30.8
   Plt
   291
   274
   396
   341
   Cr
   1.3
   1.3
   Glucose
   73
   59
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:74.5 %, Lymph:17.8 %, Mono:5.7
   %, Eos:1.8 %, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   89 year-old gentleman with CAD, HTN, Parkinson's who presents w/ GI
   bleed, likely of lower GI source given results on RBC tagged scan
   patient currently guardedly stable
   .
   1. GI bleed- lower source given negative EGD and scan possible
   etiologies include, arteriovenous malformations, diverticulosis, colon
   CA, hemerrhoids, etc.
   -- Active T&S
   -- Transfuse PRBCs for HCT <25
 has received a total of 7 units PRBC
   also received 1unit plts and 1 unit ffp
   -- Check HCT [**Hospital1 7**]
   -- Plan for C-scope today pending GI recs
   -- Continue pantoprazole IV BID
   -- hold ASA
   -- F/U GI recs
   -- Notify surgery if he becomes unstable
   2. Acute on chronic renal insufficiency
 Unknown baseline.  Etiologies
   include pre-renal and chronic CKI due to HTN.  Likely pre-renal
   component because of interval improvement. BUN decreased further today.
   - H/H increased, BUN/Cr stable
 continue to monitor, likely back to
   baseline or close to baseline
   3. Leukocytosis
 unknown etiology
 baseline reportedly in the teens
   -- Continue to monitor and trend
 decreasing
 No indication for
   culture or work-up
   -- afebrile, monitor for signs and symptoms of infection
   3. Parkinson's disease- continue outpatient regimen
   - Sinemet 50/200
   - Mirapex
 0.125mg PO TID
   .
   4. CHF/CAD s/p MI - According to the patient, past MI was in the
   setting of taking [**Last Name (un) 11385**].
   - Hold Aspirin due to GI bleed
   5. BPH and urinary retention - Continue outpatient regimen
   - Continue Tolterodine 2mg QHS
   ICU Care
   Nutrition: NPO
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2161-10-21**] 09:46 PM
   18 Gauge - [**2161-10-21**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: Full Code
   Disposition: Call-out today pending GI recs
   10:56
   ------ Protected Section ------
   Agree w/ excellent MS IV note above. Will plan for [**Last Name (un) **] today
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 11211**], MD
   on:[**2161-10-23**] 11:07 ------

2161-10-23 10:27:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transfused platelets yesterday
   No further transfusions of packed RBCs
   Denies pain or nausea
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-10-23**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-10-23**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 69 (57 - 80) bpm
   BP: 152/57(82) {128/45(68) - 175/75(131)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,433 mL
                                                                    113 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    260 mL
                                                                    113 mL
   Blood products:
                                                                  1,173 mL
   Total out:
                                                                  2,600 mL
                                                                    955 mL
   Urine:
                                                                  2,600 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -167 mL
                                                                   -842 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: unable to open eyes, hasn't had eye drops
   Head, Ears, Nose, Throat: Normocephalic, dry mouth
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   341 K/uL
   59 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.8 mEq/L
   31 mg/dL
   103 mEq/L
   141 mEq/L
   30.8 %
   14.2 K/uL
        [image002.jpg]
                            [**2161-10-21**]  02:32 PM
                            [**2161-10-21**]  05:11 PM
                            [**2161-10-21**]  10:19 PM
                            [**2161-10-22**]  02:09 AM
                            [**2161-10-22**]  04:03 AM
                            [**2161-10-22**]  08:01 AM
                            [**2161-10-22**]  11:58 AM
                            [**2161-10-22**]  03:59 PM
                            [**2161-10-22**]  07:40 PM
                            [**2161-10-23**]  04:04 AM
   WBC
   20.6
   17.7
   14.2
   Hct
   17.6
   20.6
   29.8
   34.7
   33.8
   30.8
   29.9
   31.0
   34.2
   30.8
   Plt
   291
   274
   396
   341
   Cr
   1.3
   1.3
   Glucose
   73
   59
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:74.5 %, Lymph:17.8 %, Mono:5.7
   %, Eos:1.8 %, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Hct stable and hasn't required further blood transfusions.  Has been
   getting GoLytely albeit still not clear.  Anticipate GI scope this
   afternoon. Keep NPO on protonix.  Continue to monitor Q 8 hr CBC.
   [**Hospital **] transfer to medical floor later today if scoped and no
   concern for bleeding risk or if his hct remains stable and scope
   postponed given that he has still not cleared.
 PARKINSON'S DISEASE:  Hasn't had meds this am; stiff.  Continue
   current meds.
 RENAL FAILURE:  Good urine output, Cr stable.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-10-21**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2161-10-24 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2161-10-23**] 04:35 PM
   Underwemt colonoscopy; No evidence of active bleeding noted.
   Most likely source of bleeding is from diverticula that have now
   stopped.
   Hct up to 32.1 from 30.8
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-10-23**] 08:16 AM
   Dextrose 50% - [**2161-10-24**] 07:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 69 (58 - 88) bpm
   BP: 130/44(65) {110/44(65) - 161/93(103)} mmHg
   RR: 21 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: LBBB (Left Bundle Branch Block)
             Total In:
                                                                    370 mL
                                                                     79 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    250 mL
                                                                     49 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    280 mL
   Urine:
                                                                  1,125 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,105 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male, NAD.
   HEENT: Normocephalic, atraumatic. Conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 systolic
   murmurs at the apex, rubs or [**Last Name (un) 1011**]. JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Pale palmar surfaces and distal extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   330 K/uL
   10.9 g/dL
   43 mg/dL
   1.4 mg/dL
   22 mEq/L
   5.5 mEq/L
   31 mg/dL
   102 mEq/L
   138 mEq/L
   31.2 %
   16.3 K/uL
        [image002.jpg]
                            [**2161-10-21**]  10:19 PM
                            [**2161-10-22**]  02:09 AM
                            [**2161-10-22**]  04:03 AM
                            [**2161-10-22**]  08:01 AM
                            [**2161-10-22**]  11:58 AM
                            [**2161-10-22**]  03:59 PM
                            [**2161-10-22**]  07:40 PM
                            [**2161-10-23**]  04:04 AM
                            [**2161-10-23**]  03:37 PM
                            [**2161-10-24**]  05:20 AM
   WBC
   20.6
   17.7
   14.2
   16.3
   Hct
   29.8
   34.7
   33.8
   30.8
   29.9
   31.0
   34.2
   30.8
   32.1
   31.2
   Plt
   291
   274
   396
   341
   330
   Cr
   1.3
   1.3
   1.4
   Glucose
   73
   59
   43
   Other labs: PT / PTT / INR:12.7/28.7/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:74.5 %, Lymph:17.8 %, Mono:5.7
   %, Eos:1.8 %, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   89 year-old gentleman with CAD, HTN, Parkinson's who presents w/ GI
   bleed, likely of lower GI source given results on RBC tagged scan
   patient currently guardedly stable
   .
   1. GI bleed- lower source given negative EGD and scan possible
   etiologies include, arteriovenous malformations, diverticulosis, colon
   CA, hemerrhoids, etc.
   -- Active T&S
   -- Transfuse PRBCs for HCT <25
 has received a total of 7 units PRBC
   also received 1unit plts and 1 unit ffp
   -- Check HCT [**Hospital1 7**]
   -- Plan for C-scope today pending GI recs
   -- Continue pantoprazole IV BID
   -- hold ASA
   -- F/U GI recs
   -- Notify surgery if he becomes unstable
   2. Acute on chronic renal insufficiency
 Unknown baseline.  Etiologies
   include pre-renal and chronic CKI due to HTN.  Likely pre-renal
   component because of interval improvement. BUN decreased further today.
   - H/H increased, BUN/Cr stable
 continue to monitor, likely back to
   baseline or close to baseline
   3. Leukocytosis
 unknown etiology
 baseline reportedly in the teens
   -- Continue to monitor and trend
 decreasing
 No indication for
   culture or work-up
   -- afebrile, monitor for signs and symptoms of infection
   3. Parkinson's disease- continue outpatient regimen
   - Sinemet 50/200
   - Mirapex
 0.125mg PO TID
   .
   4. CHF/CAD s/p MI - According to the patient, past MI was in the
   setting of taking [**Last Name (un) 11385**].
   - Hold Aspirin due to GI bleed
   5. BPH and urinary retention - Continue outpatient regimen
   - Continue Tolterodine 2mg QHS
   ICU Care
   Nutrition: NPO
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2161-10-21**] 09:46 PM
   18 Gauge - [**2161-10-21**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 36**] status: Full Code
   Disposition: Call-out today pending GI recs

2161-10-24 10:33:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 COLONOSCOPY - At [**2161-10-23**] 04:35 PM
 CALLED OUT
   HCT stable
   Episode of hypoglycemia overnight requiring [**12-12**] amp D50
   Now taking clears
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2161-10-24**] 07:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Endocrine: hypoglycemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2161-10-24**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 65 (58 - 88) bpm
   BP: 150/58(80) {110/44(65) - 161/93(103)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: LBBB (Left Bundle Branch Block)
             Total In:
                                                                    370 mL
                                                                    792 mL
   PO:
                                                                    120 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    500 mL
   Urine:
                                                                  1,125 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,105 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   330 K/uL
   43 mg/dL
   1.4 mg/dL
   22 mEq/L
   5.5 mEq/L
   31 mg/dL
   102 mEq/L
   138 mEq/L
   31.2 %
   16.3 K/uL
        [image002.jpg]
                            [**2161-10-21**]  10:19 PM
                            [**2161-10-22**]  02:09 AM
                            [**2161-10-22**]  04:03 AM
                            [**2161-10-22**]  08:01 AM
                            [**2161-10-22**]  11:58 AM
                            [**2161-10-22**]  03:59 PM
                            [**2161-10-22**]  07:40 PM
                            [**2161-10-23**]  04:04 AM
                            [**2161-10-23**]  03:37 PM
                            [**2161-10-24**]  05:20 AM
   WBC
   20.6
   17.7
   14.2
   16.3
   Hct
   29.8
   34.7
   33.8
   30.8
   29.9
   31.0
   34.2
   30.8
   32.1
   31.2
   Plt
   291
   274
   396
   341
   330
   Cr
   1.3
   1.3
   1.4
   Glucose
   73
   59
   43
   Other labs: PT / PTT / INR:12.7/28.7/1.1, CK / CKMB /
   Troponin-T:46/4/0.03, Differential-Neuts:74.5 %, Lymph:17.8 %, Mono:5.7
   %, Eos:1.8 %, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Secondary to diverticulosis. Hct has continued to be stable. No pain or
   nausea.  Stable for transfer to the medical floor.  Discontinue the
   PPI.  continue to hold aspirin.
 RENAL INSUFFICIENCY:  Stable.
 HYPOGLYCEMIA:  Secondary to being NPO, now taking clear liquids,
   advance diet as tolerated.  Follow finger sticks.
 PARKINSON'S DISEASE:  Continue current regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-24**] 05:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes